US07713982B2
8-Chloro-3-octyl-3,7-dihydro-1H-purine-2,6-dione
8-Chloro-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.44 mmol) was stirred with sodium carbonate (52 mg, 0.49 mmol) in dry DMF (3 ml) for 20 min., then 1-iodooctane (118 mg, 0.49 mmol) was added and the mixture was stirred under nitrogen at 40 C for 65 h. After cooling to room temperature, the mixture was thoroughly degassed by evacuating the vessel and refilling with nitrogen several times. Tetrakis(triphenylphosphine)palladium(0) (102 mg, 0.09 mmol) was added, the mixture degassed again and then morpholine (0.385 ml, 4.4 mmol) added and stirring continued for 6.5 h. 2M HCl and EtOAc were added, and the 2-phase system was filtered. The product was present predominantly in the filtered solid, which was recrystallised from THF-acetonitrile, followed by MeOH, with filtration, to afford the pure title compound.

reactant | 8-Chloro-3,7-dihydro-1H-purine-2,6-dione | 0.44 mmol, 100 mg | ClC1=NC=2NC(NC(C2N1)=O)=O | C5H3ClN4O2
reactant | sodium carbonate | 0.49 mmol, 52 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-iodooctane | 0.49 mmol, 118 mg | ICCCCCCCC | C8H17I
reactant | morpholine | 4.4 mmol, 0.385 ml | N1CCOCC1 | C4H9NO
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.09 mmol, 102 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-Chloro-3-octyl-3,7-dihydro-1H-purine-2,6-dione | ClC1=NC=2N(C(NC(C2N1)=O)=O)CCCCCCCC | C13H19ClN4O2
